US08404859B2
Preparation of (S)-2-{[3-Cyano-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester
To a solution of (S)-3-Amino-2-{[3-cyano-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-propionic acid methyl ester hydrochloride (0.066 mmol) in anhydrous DMF (5 mL) was added triethylamine (0.03 mL, 0.20 mmol), HBTU (0.030 g, 0.079 mmol), HOBt (0.011 g, 0.079 mmol), and 2-Thiophenecarboxylic acid (0.009 g, 0.069 mmol). The mixture was stirred at room temperature 1.5 h, treated with EtOAc (20 mL), washed with brine, dried over sodium sulfate, filtered and evaporated. The solid residue was purified by column (30-60% EtOAc in hexane) to give 0.0162 g (16%) colorless oil. MS m/e 512.9 (M+H+).

reactant | (S)-3-Amino-2-{[3-cyano-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-propionic acid methyl ester hydrochloride | 0.066 mmol | Cl.COC([C@H](CN)NC(=O)C=1SC(=CC1C#N)C(NCC1=CC(=CC=C1)O)=O)=O
reactant | triethylamine | 0.20 mmol, 0.03 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.079 mmol, 0.030 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.079 mmol, 0.011 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-Thiophenecarboxylic acid | 0.069 mmol, 0.009 g | S1C(=CC=C1)C(=O)O | C5H4O2S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (S)-2-{[3-Cyano-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester | 0.0162 g, 16% | COC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C=1SC(=CC1C#N)C(NCC1=CC(=CC=C1)O)=O)=O | C23H20N4O6S2
